US07067506B2
Step 1: 2-Amino-5-ethylpyrazine.
To a stirred solution of 5-ethynyl-2-aminopyrazine (18 mg; 0.151 mmol), in ethyl acetate (500 μL) was added triethylamine (63 μL; 0.45 mmol) and Pd(OH)2 (0.01 mmol; 20% wt on carbon). The reaction was placed under a hydrogen atmosphere at 45 psi and shook for 6 hours. The reaction was filtered and concentrated under reduced pressure to yield an off white solid (84% yield).

reactant | 5-ethynyl-2-aminopyrazine | 0.151 mmol, 18 mg | C(#C)C=1N=CC(=NC1)N | C6H5N3
reactant | triethylamine | 0.45 mmol, 63 μL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 500 μL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OH)2 | 0.01 mmol | [OH-].[OH-].[Pd+2]
product | 2-Amino-5-ethylpyrazine | 84% yield | NC1=NC=C(N=C1)CC | C6H9N3
